US09255090B2
Synthesis of 8-hydroxy-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester (C17H17NO3, MW=283.1)
To an-ice cooled suspension of 8-hydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride (746 mg, 5.0 mmol, 1.0 eq.) and triethylamine (2.13 mL, 15.0 mmol, 3.0 eq.) in DCM (25 mL), benzyl chloroformate (0.83 mL, 5.5 mmol, 1.1 eq.) was added dropwise. The solution was stirred at 0° C. for 1 hour and further at r.t. for 4 hours. The reaction was quenched with 1M aq. citric acid soln. (50 mL). The layers were separated. The aq. phase was extracted with DCM (3×50 mL). The comb. org. phases were dried over Na2SO4 and concentrated in vacuo. The residue was dissolved in THF (20 mL) and 1M aq. NaOH soln. (6 mL) was added. The mixture was stirred at r.t. for 68 hours. The org. solvent was removed in vacuo. The resulting aq. layer was acidified with 2N aq. HCl soln. and extracted with DCM (3×25 ml). The comb. org. phases were dried over MgSO4 and concentrated in vacuo. The residue was purified by CC (SiO2, Hept/AcOEt 8:2 to 7:3) to give the title compound as a white solid.

reactant | 8-hydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | 5.0 mmol, 746 mg, 1.0 eq. | Cl.OC=1C=CC=C2CCNCC12
reactant | triethylamine | 15.0 mmol, 2.13 mL, 3.0 eq. | C(C)N(CC)CC | C6H15N
reactant | benzyl chloroformate | 5.5 mmol, 0.83 mL, 1.1 eq. | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | 8-hydroxy-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CC2=C(C=CC=C2CC1)O | C17H17NO3
